* Created by KLayout
*** My special header ***

* cell tr_1um_ichiken06
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_ichiken06 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $2 r0 *1 0,0
X$2 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $3 r0 *1 -314,561
X$3 \$3 P3 P1 P2 P14 P15 P4 P13 VSS 1bitCPU_Isobe
* cell instance $12 r0 *1 -633.5,-525.1
X$12 P6 P5 P12 P7 VSS P11 opamp_r2r_ichiken2
.ENDS tr_1um_ichiken06

* cell opamp_r2r_ichiken2
* pin INM
* pin INP
* pin 
* pin 
* pin VSS
* pin 
.SUBCKT opamp_r2r_ichiken2 INM INP \$24 \$27 VSS \$I32
* cell instance $1 r0 *1 689.5,-9.7
X$1 \$4 \$1 \$3 \$I32 \$9 \$14 \$17 \$24 \$8 \$15 \$6 \$2 VSS
+ opamp_r2r_ichiken_OUT2
* cell instance $2 r0 *1 380.2,-6.5
X$2 \$10 \$9 INP INM \$24 \$8 \$4 \$6 \$3 \$15 \$26 VSS DI
* cell instance $25 r0 *1 -2.9,34.5
X$25 \$9 \$10 \$27 \$24 VSS CCM
* cell instance $26 r0 *1 -9.6,-6.5
X$26 \$10 \$9 \$15 \$14 \$17 \$26 \$24 VSS FCM
.ENDS opamp_r2r_ichiken2

* cell 1bitCPU_Isobe
* pin VDD
* pin RESET
* pin PC0
* pin REG0
* pin PROG1
* pin PC1
* pin CLK
* pin PROG0
* pin VSS
.SUBCKT 1bitCPU_Isobe VDD RESET PC0 REG0 PROG1 PC1 CLK PROG0 VSS
* cell instance $2 r0 *1 0,0
X$2 CLK \$1 RESET \$I62 REG0 VDD VSS DFFR
* cell instance $5 r0 *1 444.9,0
X$5 VDD \$32 \$42 \$1 VSS OR2
* cell instance $7 r0 *1 601.4,0
X$7 VDD \$2 \$15 \$52 VSS AND2_X1
* cell instance $8 r0 *1 288.4,0
X$8 \$11 \$2 VDD \$39 VSS NAND2
* cell instance $9 r0 *1 572.3,0
X$9 VDD PROG1 \$2 VSS INV_X1
* cell instance $12 r0 *1 230.2,0
X$12 REG0 \$2 VDD \$11 VSS NAND2
* cell instance $19 r0 *1 636,0
X$19 VDD \$9 \$52 \$23 VSS OR2
* cell instance $20 r0 *1 508.6,0
X$20 VDD \$30 \$49 \$9 VSS AND2_X1
* cell instance $21 r0 *1 410.3,0
X$21 VDD REG0 \$15 \$42 VSS AND2_X1
* cell instance $22 r0 *1 259.3,0
X$22 REG0 \$11 VDD \$7 VSS NAND2
* cell instance $23 r0 *1 317.5,0
X$23 \$7 \$39 VDD \$12 VSS NAND2
* cell instance $24 r0 *1 346.6,0
X$24 VDD \$15 \$41 VSS INV_X1
* cell instance $25 r0 *1 375.7,0
X$25 VDD \$12 \$41 \$32 VSS AND2_X1
* cell instance $26 r0 *1 543.2,0
X$26 VDD PROG0 \$15 VSS INV_X1
* cell instance $27 r0 *1 479.5,0
X$27 VDD \$15 \$49 VSS INV_X1
* cell instance $29 r0 *1 100.6,0
X$29 CLK \$23 RESET \$30 PC0 VDD VSS DFFR
* cell instance $30 r0 *1 201.2,0
X$30 VDD PC0 PC1 VSS INV_X1
.ENDS 1bitCPU_Isobe

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell opamp_r2r_ichiken_OUT2
* pin test4
* pin 
* pin test3
* pin OUT
* pin BNI
* pin BNF
* pin BPF
* pin VDD
* pin test1
* pin BPI
* pin test2
* pin 
* pin VSS
.SUBCKT opamp_r2r_ichiken_OUT2 test4 \$14 test3 OUT BNI BNF BPF VDD test1 BPI
+ test2 \$79 VSS
* cell instance $1 m90 *1 -8.3,-207.5
X$1 \$2 VSS \$2 VSS MN$3$3
* cell instance $3 m90 *1 -8.3,-183.1
X$3 \$11 \$2 \$11 VSS MN$3$3
* cell instance $5 r0 *1 365.6,-207.7
X$5 VSS \$3 OUT VSS MN$5$1
* cell instance $6 r0 *1 -121.1,-47.4
X$6 \$50 \$3 VDD BPF MP$2$3
* cell instance $7 m90 *1 -109.6,-158.7
X$7 test4 \$3 BNI VSS MN$6
* cell instance $8 r0 *1 11.7,-183.1
X$8 \$21 VSS \$3 VSS MN$3$3
* cell instance $9 m90 *1 -110.6,-105.2
X$9 \$50 \$3 BNF VSS MN$3$3
* cell instance $20 r0 *1 -211.8,-207.7
X$20 VSS test3 \$4 VSS MN$1$2
* cell instance $21 r0 *1 -199.8,-158.7
X$21 test3 \$4 BNI VSS MN$6
* cell instance $22 m90 *1 -180.1,-47.4
X$22 \$49 \$4 VDD BPF MP$2$3
* cell instance $23 m90 *1 -98.6,-207.7
X$23 VSS test4 \$4 VSS MN$1$2
* cell instance $24 r0 *1 -198.8,-105.2
X$24 \$49 \$4 BNF VSS MN$3$3
* cell instance $29 r180 *1 23.5,-75.9
X$29 \$14 test4 \$11 VSS MN$1$2
* cell instance $32 m90 *1 -1.6,24.2
X$32 VDD \$11 VDD \$50 MP$2$3
* cell instance $39 r0 *1 166.7,-100
X$39 \$14 OUT VSS CSIO
* cell instance $40 r0 *1 266.1,-100
X$40 \$14 OUT VSS CSIO
* cell instance $43 m0 *1 -41.1,-28.1
X$43 \$21 \$79 test1 VDD MP$7
* cell instance $44 r0 *1 12.4,24.2
X$44 \$78 \$21 VDD \$21 MP$2$3
* cell instance $53 m0 *1 365.7,-11.4
X$53 VDD \$50 OUT VDD MP$4$1
* cell instance $54 m0 *1 365.7,83.5
X$54 VDD \$50 OUT VDD MP$4$1
* cell instance $55 m0 *1 266.1,-0.6
X$55 \$79 OUT VSS CSIO
* cell instance $56 m0 *1 166.7,-0.6
X$56 \$79 OUT VSS CSIO
* cell instance $69 m90 *1 -168.1,7.6
X$69 test2 \$49 VDD BPI MP$1$2
* cell instance $70 m90 *1 -162.3,65.6
X$70 \$49 VDD test2 VDD MP$7
* cell instance $71 r0 *1 -148.3,65.6
X$71 \$49 VDD test1 VDD MP$7
* cell instance $78 r0 *1 -132.1,7.6
X$78 test1 \$50 VDD BPI MP$1$2
* cell instance $92 r0 *1 12.4,65.2
X$92 VDD \$78 VDD \$78 MP$2$3
.ENDS opamp_r2r_ichiken_OUT2

* cell FCM
* pin BNO
* pin BNI
* pin BPI
* pin BNF
* pin BPF
* pin BPO
* pin VDD
* pin VSS
.SUBCKT FCM BNO BNI BPI BNF BPF BPO VDD VSS
* cell instance $1 r0 *1 79.3,-142.9
X$1 \$10 VSS BNO VSS MN$1$1
* cell instance $8 r0 *1 119.6,-142.9
X$8 \$27 VSS BNO VSS MN$1$1
* cell instance $9 r0 *1 194.6,-142.9
X$9 \$24 VSS BNO VSS MN$1$1
* cell instance $10 r0 *1 156.8,-108.4
X$10 \$26 \$6 BNI VSS MN$5
* cell instance $11 r0 *1 156.7,-72.8
X$11 \$6 BNF BNF VSS MN$5
* cell instance $15 r0 *1 156.8,-142.9
X$15 \$26 VSS \$6 VSS MN$1$1
* cell instance $16 r0 *1 79.3,-108.4
X$16 \$10 BPI BNI VSS MN$5
* cell instance $17 r0 *1 119.6,-108.4
X$17 \$27 BPO BNI VSS MN$5
* cell instance $18 r0 *1 194.6,-108.4
X$18 \$24 BPF BNI VSS MN$5
* cell instance $27 r180 *1 103.4,-18
X$27 BPI \$46 VDD BPI MP$1$1
* cell instance $28 m90 *1 103.4,75.7
X$28 VDD \$70 VDD BPI MP$2
* cell instance $29 r180 *1 219.2,34.9
X$29 \$44 \$76 VDD BPI MP$4
* cell instance $30 r180 *1 180.6,34.9
X$30 BNF \$74 VDD BPI MP$4
* cell instance $31 r180 *1 142,34.9
X$31 BPO \$72 VDD BPI MP$4
* cell instance $32 r180 *1 103.4,34.9
X$32 \$46 \$70 VDD BPI MP$1$1
* cell instance $48 m90 *1 219.2,-34.3
X$48 \$44 BPF VDD BPF MP$4
* cell instance $51 m90 *1 219.2,63.7
X$51 VDD \$76 VDD \$44 MP$3
* cell instance $54 m90 *1 142,63.7
X$54 VDD \$72 VDD BPO MP$3
* cell instance $55 m90 *1 180.6,63.7
X$55 VDD \$74 VDD BPO MP$3
.ENDS FCM

* cell DI
* pin BNO
* pin BNI
* pin INP
* pin INM
* pin VDD
* pin 
* pin test4
* pin test2
* pin test3
* pin BPI
* pin BPO
* pin VSS
.SUBCKT DI BNO BNI INP INM VDD \$24 test4 test2 test3 BPI BPO VSS
* cell instance $1 m90 *1 -73.7,-199.2
X$1 VSS \$11 BNO VSS MN$4
* cell instance $2 r0 *1 -53.7,-199.2
X$2 VSS \$12 BNO VSS MN$4
* cell instance $7 m90 *1 -73.7,-152.2
X$7 \$11 \$18 BNI VSS MN$4
* cell instance $8 r0 *1 -53.7,-152.2
X$8 \$12 \$18 BNI VSS MN$4
* cell instance $13 m90 *1 -70.4,-35.4
X$13 \$32 test4 VDD INP MP$1
* cell instance $14 m90 *1 -73.7,-105.2
X$14 \$18 \$24 INP VSS MN$4
* cell instance $19 r0 *1 -56.4,-35.4
X$19 \$32 test3 VDD INM MP$1
* cell instance $20 r0 *1 -53.7,-105.2
X$20 \$18 test2 INM VSS MN$4
* cell instance $27 m90 *1 -70.4,65.6
X$27 VDD \$39 VDD BPO MP$1
* cell instance $28 r0 *1 -56.4,65.6
X$28 VDD \$40 VDD BPO MP$1
* cell instance $29 m90 *1 -70.4,15.1
X$29 \$39 \$32 VDD BPI MP$1
* cell instance $30 r0 *1 -56.4,15.1
X$30 \$40 \$32 VDD BPI MP$1
.ENDS DI

* cell CCM
* pin BNI
* pin BNO
* pin VB
* pin VDD
* pin VSS
.SUBCKT CCM BNI BNO VB VDD VSS
* cell instance $1 m90 *1 -4.1,-66.6
X$1 VSS \$5 BNI VSS MN$2
* cell instance $2 m90 *1 -4.1,-35
X$2 \$5 \$12 BNI VSS MN
* cell instance $3 m90 *1 37.8,-35
X$3 \$8 BNO BNI VSS MN$1
* cell instance $4 r0 *1 -28.6,32.8
X$4 VDD BNI VDD VB MP
* cell instance $5 m90 *1 -4.1,-3.3
X$5 \$12 BNI BNI VSS MN
* cell instance $12 m90 *1 37.8,-66.6
X$12 \$8 VSS BNO VSS MN$3
* cell instance $13 r0 *1 6.7,32.8
X$13 VDD BNO VDD VB MP
.ENDS CCM

* cell OR2
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT OR2 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$4 A \$7 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$7 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 gnd A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS OR2

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell NAND2
* pin A
* pin B
* pin vdd
* pin Y
* pin gnd
.SUBCKT NAND2 A B vdd Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 gnd A \$5 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 \$5 B Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NAND2

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 50.9,6.8 NMOS
XM$18 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $19 r0 *1 53.3,6.8 NMOS
XM$19 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $20 r0 *1 57.3,6.8 NMOS
XM$20 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $21 r0 *1 59.7,6.8 NMOS
XM$21 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 63.7,6.8 NMOS
XM$22 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $23 r0 *1 67.7,6.8 NMOS
XM$23 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $24 r0 *1 6.1,6.8 NMOS
XM$24 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $25 r0 *1 10.1,6.8 NMOS
XM$25 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 75.7,6.8 NMOS
XM$26 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 79.7,6.8 NMOS
XM$27 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell MN$5$1
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$5$1 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,27.6 NMOS
XM$1 \$1 \$2 \$3 VSS NMOS L=8u W=1152u AS=1790.4p AD=1790.4p PS=1274.6u
+ PD=1274.6u
.ENDS MN$5$1

* cell MN$1$2
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$1$2 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,15.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=96u AS=175.2p AD=175.2p PS=134.6u PD=134.6u
.ENDS MN$1$2

* cell MN$6
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$6 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,15.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=48u AS=103.2p AD=103.2p PS=80.6u PD=80.6u
.ENDS MN$6

* cell MN$3$3
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$3$3 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MN$3$3

* cell MP$1$2
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$1$2 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=96u AS=175.2p AD=175.2p PS=134.6u PD=134.6u
.ENDS MP$1$2

* cell MP$2$3
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$2$3 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=48u AS=103.2p AD=103.2p PS=80.6u PD=80.6u
.ENDS MP$2$3

* cell MP$4$1
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$4$1 \$1 \$2 \$3 \$28
* device instance $1 r0 *1 6.8,27.6 PMOS
XM$1 \$3 \$2 \$1 \$28 PMOS L=8u W=1152u AS=1790.4p AD=1790.4p PS=1274.6u
+ PD=1274.6u
.ENDS MP$4$1

* cell CSIO
* pin 
* pin 
* pin VSS
.SUBCKT CSIO \$2 \$3 VSS
* device instance $1 r0 *1 0,0 F_CSIO
XC$1 \$2 \$3 VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
.ENDS CSIO

* cell MP$7
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$7 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$2 \$1 \$3 \$4 PMOS L=8u W=192u AS=319.2p AD=319.2p PS=242.6u PD=242.6u
.ENDS MP$7

* cell MP$2
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$2 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,9.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MP$2

* cell MN$1$1
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$1$1 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MN$1$1

* cell MN$5
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$5 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MN$5

* cell MP$3
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$3 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=48u AS=103.2p AD=103.2p PS=80.6u PD=80.6u
.ENDS MP$3

* cell MP$4
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$4 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=48u AS=103.2p AD=103.2p PS=80.6u PD=80.6u
.ENDS MP$4

* cell MP$1$1
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$1$1 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,9.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MP$1$1

* cell MN$4
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$4 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,15.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=48u AS=103.2p AD=103.2p PS=80.6u PD=80.6u
.ENDS MN$4

* cell MP$1
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP$1 \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,15.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=96u AS=175.2p AD=175.2p PS=134.6u PD=134.6u
.ENDS MP$1

* cell MN$1
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$1 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MN$1

* cell MP
* pin 
* pin 
* pin 
* pin 
.SUBCKT MP \$1 \$2 \$3 \$4
* device instance $1 r0 *1 6.8,9.6 PMOS
XM$1 \$1 \$4 \$2 \$3 PMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MP

* cell MN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS MN

* cell MN$2
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$2 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=8u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS MN$2

* cell MN$3
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT MN$3 \$1 \$2 \$3 VSS
* device instance $1 r0 *1 6.8,9.6 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=8u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS MN$3

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
